US09193744B2
n-BuLi (1.6 M solution in hexanes, 0.900 mL, 1.440 mmol) was added dropwise to a solution of 3R,4aR,12bR)-8-bromo-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol; compound with 3S,4aS,12bS)-8-bromo-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol (108, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.364 g, 0.690 mmol) and THF (10.0 mL) under a nitrogen atmosphere at about −78° C. After about 45 min, n-BuLi (1.6 M solution in hexanes, 0.100 mL, 0.160 mmol) was added dropwise over about 2 min. After about 30 min, MeOH (0.4 mL) was added dropwise. The cold bath was removed. Sat. aq. NH4Cl (20 mL), water (5 mL) and EtOAc (20 mL) were added. The layers were separated and the organics were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified on silica gel (40 g) using a gradient of 0-2% EtOAc in DCM. The fractions containing the product were combined and concentrated under reduced pressure to afford (3R,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol; compound with (3S,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol (109, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.273 g, 88% yield) of an ivory solid. LC/MS, method 2, Rt=2.77 min, MS m/z 449 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.27 (d, J=1.0 Hz, 1H), 7.82-7.74 (m, 3H), 7.44-7.36 (m, 2H), 7.31 (d, J=0.9 Hz, 1H), 5.91 (s, 1H), 4.45-4.34 (m, 1H), 3.60-3.47 (m, 1H), 2.40-2.25 (m, 1H), 2.23-1.49 (m, 10H), 0.38 (t, J=7.4 Hz, 3H).

reactant | n-BuLi | 1.440 mmol, 1.6 M, 0.900 mL | [Li]CCCC
reactant | 8-bromo-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol | BrC1=C2C(=CC=3C=NN(C13)C1=CC=C(C=C1)F)C1(C(CCO2)CC(CC1)(O)C(F)(F)F)CC | C24H23BrF4N2O2
reactant | THF | 10.0 mL | C1CCOC1 | C4H8O
reactant | n-BuLi | 0.160 mmol, 1.6 M, 0.100 mL | [Li]CCCC
solvent | MeOH | 0.4 mL | CO | CH4O
product | (3R,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol; compound with (3S,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol | C(C)[C@]12[C@@H](CCOC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)C[C@](CC2)(O)C(F)(F)F.C(C)[C@@]23[C@H](CCOC=1C2=CC=2C=NN(C2C1)C1=CC=C(C=C1)F)C[C@@](CC3)(O)C(F)(F)F | 2C24H24F4N2O2
